US06350832B1
Dicyclopentadiene was heated with butyl vinyl ether to form the Diels-Alder product of 5-butoxy-2-norbornene. The product was then purified by vacuum distillation.

reactant | Dicyclopentadiene | C1C=CC2C1C3CC2C=C3 | C10H12
reactant | butyl vinyl ether | C(=C)OCCCC | C6H12O
product | 5-butoxy-2-norbornene | C(CCC)OC1C2C=CC(C1)C2 | C11H18O
